US08791134B2
1,3-Diethoxy-propan-2-one oxime was prepared from 1,3-diethoxy-propan-2-one and hydroxylamine hydrochloride using conditions of General Method 1. 1H NMR (400 MHz, DMSO-d6) δ 11.06 (1H, s), 4.18 (2H, s), 3.96 (2H, s), 3.41 (4H, quin, 7.0 Hz), 1.10 (6H, q, 7.1 Hz).

reactant | 1,3-diethoxy-propan-2-one | C(C)OCC(COCC)=O | C7H14O3
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1,3-Diethoxy-propan-2-one oxime | C(C)OCC(COCC)=NO | C7H15NO3
